US07074800B1
Using an analogous procedure to that described for Example 120, 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline (200 mg, 0.59 mmol), (prepared as described for the starting material in Example 1), was reacted with 6-hydroxyindole (95 mg, 0.71 mmol) to give 4-(indol-6-yloxy)-6-methoxy-7-(3-morpholinopropoxy)quinazoline (155 mg, 60%).

reactant | 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline | 0.59 mmol, 200 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C16H20ClN3O3
reactant | 6-hydroxyindole | 0.71 mmol, 95 mg | OC1=CC=C2C=CNC2=C1 | C8H7NO
product | 4-(indol-6-yloxy)-6-methoxy-7-(3-morpholinopropoxy)quinazoline | 155 mg, 60% | N1C=CC2=CC=C(C=C12)OC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C24H26N4O4
